US07338959B2
3-(4-Methyl-piperazine-1-sulfonyl)-phenylamine
The title compound was prepared following the procedure of intermediate Example 2 with to 3-Nitro-benzenesulfonyl chloride (4.4 g, 20 mmol) and N-methyl-piperazine (2.2 ml 20 mmol) as an off white solid (3.6 g, 70%). MS (ESI) m/z=256 [M+H]+.

reactant | 3-Nitro-benzenesulfonyl chloride | 20 mmol, 4.4 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | N-methyl-piperazine | 20 mmol, 2.2 ml | CN1CCNCC1 | C5H12N2
product | 3-(4-Methyl-piperazine-1-sulfonyl)-phenylamine | CN1CCN(CC1)S(=O)(=O)C=1C=C(C=CC1)N | C11H17N3O2S
